US07183278B1
3-Hydroxy-4-methoxy-4′-benzyloxypicolinanilide
4-Benzyloxyaniline hydrochloride (0.21 g, 0.87 mmol), 0.15 g (0.73 mmol) of 3-hydroxy-4-methoxypicolinic acid hydrochloride, 0.15 g (1.10 mmol) of 1-hydroxybenzotriazole, and 0.16 g (1.10 mmol) of triethylamine were mixed into chloroform to prepare a suspension (2 ml). A chloroform solution (2 ml) of WSCI.HCl (0.21 g, 1.10 mmol) and 0.11 g (1.10 mmol) of triethylamine were added dropwise at −20° C. to this suspension, and a reaction was then allowed to proceed at room temperature overnight. The reaction mixture was concentrated under the reduced pressure. The concentrate was redissolved in chloroform. The solution was washed with saturated brine, and was then dried over anhydrous sodium sulfate. The dried solution was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform) to give 0.15 g (yield 59%) of title compound.

reactant | 4-Benzyloxyaniline hydrochloride | 0.87 mmol, 0.21 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 3-hydroxy-4-methoxypicolinic acid hydrochloride | 0.73 mmol, 0.15 g | Cl.OC=1C(=NC=CC1OC)C(=O)O
reactant | 1-hydroxybenzotriazole | 1.10 mmol, 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.10 mmol, 0.16 g | C(C)N(CC)CC | C6H15N
reactant | WSCI.HCl | 1.10 mmol, 0.21 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 1.10 mmol, 0.11 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Hydroxy-4-methoxy-4′-benzyloxypicolinanilide | 0.15 g, yield 59% | OC=1C(=NC=CC1OC)C(=O)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H18N2O4
